US04640916
To a solution of 4.90 g of 2-(2-hydroxyethyl)-4-methyl-2H-1,4-benzothiazin-3(4H)-one in 20 ml of dichloromethane, was added dropwise 5 ml of thionyl chloride with stirring at room temperature. The mixture was stirred for one hour and then concentrated. The concentrate was subjected to a column chromatography on silica-gel (35 g). From the eluate with hexane-ethyl acetate (4:1, v/v) was obtained 5.05 g (95.3%) of 2-(2-chloroethyl)-4-methyl-2H-1,4-benzothiazin-3(4H)-one as an oily substance.

reactant | 2-(2-hydroxyethyl)-4-methyl-2H-1,4-benzothiazin-3(4H)-one | 4.90 g | OCCC1SC2=C(N(C1=O)C)C=CC=C2 | C11H13NO2S
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(2-chloroethyl)-4-methyl-2H-1,4-benzothiazin-3(4H)-one | 5.05 g, 95.3% | ClCCC1SC2=C(N(C1=O)C)C=CC=C2 | C11H12ClNOS
